US06657027B2
A solution of chlorodimethylphosphine, ClPMe2, (1.0 g, 10.39 mmol) in 20 ml of pentane was added at −70° C. over 10 min through a cannula to a suspension of fluorenyllithium, (C13H9)Li, (1.788 g, 10.39 mmol) in 30 ml of dry pentane. After brief stirring at −70° C., the cooling bath was removed and the mixture was stirred for 4 hours at room temperature under an Ar atmosphere (with occasional heating by means of a hairdryer). 20 ml of toluene were added to the suspension to assist the dissolution of the product. The pale yellow suspension was filtered and volatile components were removed from the filtrate under vacuum to leave 2.34 g (99.6%) of 9-dimethylphosphinofluorene in the form of a pale yellow oil, which is pure according to 1H and 31P NMR. The product, 9-dimethylphosphinofluorene, (2.34 g, 10.34 mmol) was diluted in 25 ml of pentane and cooled to −70° C. BuLi (4.20 ml of a 2.5 molar solution, 10.5 mmol) was added to the cooled solution and the mixture was stirred briefly at −70° C. and then at room temperature. The clear yellow solution slowly becomes turbid at room temperature and a yellow precipitate begins to form. After a reaction time of 5 hours at room temperature, the mixture was filtered through a cannula and the yellow solid was washed with dry pentane (3×5 ml) and dried under high vacuum to leave 1.91 g (80%) of a loose orange-yellow solid, which is the title compound, 9-dimethylphosphinofluorenyllithium, according to 1H and 31P NMR spectroscopy.

reactant | chlorodimethylphosphine | ClP(C)C | C2H6ClP
reactant | ClPMe2 | 10.39 mmol, 1.0 g | ClP(C)C | C2H6ClP
reactant | fluorenyllithium | C1(=CC=CC=2C3=CC=CC=C3CC12)[Li]
solvent | pentane | 20 ml | CCCCC | C5H12
solvent | pentane | 30 ml | CCCCC | C5H12
product | 9-dimethylphosphinofluorene | 2.34 g, 99.6% | CP(C1C2=CC=CC=C2C=2C=CC=CC12)C | C15H15P
